US09238644B2
(a) tert-Butyl 4-(5-((4-((2-(1-carbamoylcyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (A78)
To a mixture of tert-butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate A70 (0.208 g, 0.453 mmol), 1-(2-ethynylphenyl)cyclopropanecarboxamide K6 (0.079 g, 0.42 mmol), CuI (0.003 g, 0.02 mmol), PdCl2(PPh3)2 (0.017 g, 0.024 mmol) and t-Bu3PH.BF4 (0.009 g, 0.03 mmol) under a nitrogen atmosphere was added dioxane (6.0 mL) and DIPEA (0.23 mL, 1.3 mmol). The mixture was stirred at 85° C. for 4 hours and then concentrated under reduced pressure. Purification by silica gel column chromatography (Biotage Isolera, 0-100% EtOAc in Petroleum Benzine 40-60° C., 0-20% MeOH in EtOAc) gave the title compound A78 (0.118 g, 46%). LCMS-D: rt 3.645 min; m/z 607.4 [M+H]+.

reactant | tert-butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H23ClF3N5O2
reactant | 1-(2-ethynylphenyl)cyclopropanecarboxamide | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)N | C12H11NO
reactant | BF4 | 0.03 mmol, 0.009 g | F[B-](F)(F)F
reactant | DIPEA | 1.3 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | CuI | 0.02 mmol, 0.003 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.024 mmol, 0.017 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(5-((4-((2-(1-carbamoylcyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C32H33F3N6O3
